US06809199B2
Step B: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[3-(hydroxymethyl)piperazin-1-yl]-1,6-naphthyridin-2(1H)-one
To 25 mg of 7-[3-(tert-butoxymethyl)piperazin-1-yl]-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one was added 1 mL of TFA. The mixture was stirred 2 h at rt, then concentrated. The residue was purified by preparative thin-layer chromatography, eluting with 9:1 CH2Cl2-2M NH3 in MeOH.

reactant | 7-[3-(tert-butoxymethyl)piperazin-1-yl]-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | 25 mg | C(C)(C)(C)OCC1CN(CCN1)C1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C29H29Cl3N4O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[3-(hydroxymethyl)piperazin-1-yl]-1,6-naphthyridin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)N1CC(NCC1)CO)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N4O2
